### PR TITLE
Porting to mathcomp-1.8.0

### PR DESCRIPTION
**Pull request by affeldt-aist**
just so that compilation using mathcomp-1.8.0 goes through, using the branch/mathcomp-1.8.0

### CODE REVIEW

File: normedtype.v [hunk 1]
```diff
@@ -412,7 +412,7 @@ Proof. by []. Qed.
 Lemma Rhausdorff : hausdorff [topologicalType of R].
 Proof.
 move=> x y clxy.
-apply/eqP; rewrite eqr_le; apply/in_segment_addgt0Pr => _ /posnumP[e].
+apply/eqP; rewrite eqr_le; change (y \in `[x, x]); apply/in_segment_addgt0Pr => _ /posnumP[e].
```
Comment (CohenCyril) [inline normedtype.v]: @affeldt-aist please use `rewrite -/(y \in `[x, x]) instead`

File: derive.v [hunk 2]
```diff
@@ -1290,7 +1290,7 @@ Proof.
 move=> leab fcont; set imf := [pred t | t \in f @` [set x | x \in `[a, b]]].
 have imf_sup : has_sup imf.
   apply/has_supP; split.
-    by exists (f a); rewrite !inE; apply/asboolP/imageP; rewrite inE lerr.
+    by exists (f a); rewrite !inE; apply/asboolP/imageP; rewrite inE /= lerr.
```
Comment (CohenCyril) [inline derive.v]: please use `inE/=` everywhere (no space needed)

File: normedtype.v (hunk 1 above)
Comment (affeldt-aist) [reply normedtype.v]: I needed to be more precise (i.e., rewrite -[_ && _]/(y \in `[x, x])).

File: derive.v (hunk 2 above)
Comment (affeldt-aist) [reply derive.v]: Done.

File: normedtype.v (hunk 1 above)
Comment (CohenCyril) [reply normedtype.v]: I changed my mind and preferred explicit arguments for `in_segment_addgt0`, I will just undo your commit if you do not mind?
